US05496499
A solution of 9.5 g of 1-(p-fluorophenyl)-2-(4'-n-pentyl-biphenyl-4-yl)ethene [obtained by Heck coupling of 4-fluorostyrene with 4-bromo-4'-n-pentylbiphenyl] in 100 ml of tetrahydrofuran is hydrogenated in the presence of Pd/C until the take-up of H is complete. Customary work-up gives 1-(p-fluorophenyl)-2-(4'-n-pentylbiphenyl-4-yl)ethane, mp. 60°, cp. 109°.

reactant | 1-(p-fluorophenyl)-2-(4'-n-pentyl-biphenyl-4-yl)ethene | 9.5 g | FC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C25H25F
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 1-(p-fluorophenyl)-2-(4'-n-pentylbiphenyl-4-yl)ethane | FC1=CC=C(C=C1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C25H27F
